US07595327B2
To 0.092 g of (3S,4R)-N-tert-butoxy-1-formyl-3-methyl-4-(4-((2-methylquinolin-4-yl)methoxy)phenylsulfonamido)piperidine-3-carboxamide was added 3 mL of trifluoroacetic acid, and the resulting mixture was stirred at 45° C. for 8 h, and then concentrated. The residue was purified by silica chromatography (silica pre-washed with MeOH), eluting with a gradient of 5-20% MeOH/CH2Cl2 to afford (3S,4R)-1-formyl -N-hydroxy-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide (0.05 g, 60%) as a colorless solid. MS: 513.2 (M+H)+

reactant | (3S,4R)-N-tert-butoxy-1-formyl-3-methyl-4-(4-((2-methylquinolin-4-yl)methoxy)phenylsulfonamido)piperidine-3-carboxamide | 0.092 g | C(C)(C)(C)ONC(=O)[C@]1(CN(CC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C=O)C | C29H36N4O6S
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3S,4R)-1-formyl -N-hydroxy-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide | 0.05 g, 60% | C(=O)N1C[C@@]([C@@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)(C(=O)NO)C | C25H28N4O6S
